US07037925B2
a) 1-(Benzyloxy)-2-methoxy-4-nitrobenzene
4-Nitroguaiacol potassium salt monohydrate (25 g, 111 mmol) and cesium carbonate (3.25 g, 10 mmol) were transferred into a 500 ml one-neck flask and dry dimethylformamide (200 ml) was added, benzyl bromide (21.4 g, 125 mmol) was added dropwise at room temperature under N2 atmosphere and the reaction mixture was stirred vigorously for about 3 hours. The solvent and the excess of benzylbromide were then removed under reduced pressure. Water (200 ml) and ethanol (100 ml) was added to the crude product and refluxed for 10–15 minutes. The yellowish crystalls were filtered from the cold mixture, washed with water and dried to give 29 g (100% yield) of the title compound.

reactant | 4-Nitroguaiacol potassium salt monohydrate | 111 mmol, 25 g | O.[K].[N+](=O)([O-])C=1C=C(C(=CC1)OC)O
reactant | benzyl bromide | 125 mmol, 21.4 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
catalyst | cesium carbonate | 10 mmol, 3.25 g | C([O-])([O-])=O.[Cs+].[Cs+]
product | 1-(Benzyloxy)-2-methoxy-4-nitrobenzene | 29 g, 100% yield | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])OC | C14H13NO4
